US04435406
To 3.9 g of 2-methyl-5H-1,3-dioxolo-(4,5-f)benzimidazole-6-thiol, suspended in 60 ml of alcohol, were added dropwise while stirring 1.57 g of sodium hydroxide in 30 ml of water and, after 30 minutes, there were added 3.44 g of 5-methyl-2-chloromethylpyridine hydrochloride. The mixture was left to boil at reflux overnight, then evaporated and the residue was taken up in 500 ml of ethyl acetate. This was washed with 100 ml of sodium hydroxide, three times with 100 ml of water, dried over sodium sulfate and evaporated in vacuo. The crude product was recrystallized from ethyl acetate/petroleum ether (low boiling) and there were obtained 4.8 g (81.7% of theory) of 2-methyl-6-[[(5-methyl-2-pyridyl)methyl]-thio]-5H-1,3-dioxolo(4,5-f)benzimidazole of melting point 147°-148° C.

reactant | 2-methyl-5H-1,3-dioxolo-(4,5-f)benzimidazole-6-thiol | 3.9 g | CC1OC=2C(=CC3=C(N=C(N3)S)C2)O1 | C9H8N2O2S
reactant | sodium hydroxide | 1.57 g | [OH-].[Na+]
reactant | 5-methyl-2-chloromethylpyridine hydrochloride | 3.44 g | Cl.CC=1C=CC(=NC1)CCl
solvent | water | 30 ml | O | H2O
product | 2-methyl-6-[[(5-methyl-2-pyridyl)methyl]-thio]-5H-1,3-dioxolo(4,5-f)benzimidazole | 4.8 g, 81.7% | CC1OC=2C(=CC3=C(N=C(N3)SCC3=NC=C(C=C3)C)C2)O1 | C16H15N3O2S
